US09227956B2
4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylic acid
EXAMPLE 6 Ethyl 4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylate hydrochloride salt (7.65 g, 15.2 mmol) was slurried in 50 mL THF followed by the addition of aqueous NaOH (1 mol/L, 50 mL, 50 mmol). Another 23 mL of water was added and the reaction stirred at room temperature for 1.5 h. THF solvent was removed in vacuo, then pH of residual aqueous phase was adjusted to pH 7 with 1 M aqueous HCl, resulting in precipitation of solids. The solids were collected via filtration and after drying afforded the hydrochloride salt of the title compound as an off-white solid (6.49 g, 97%).

reactant | Ethyl 4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylate hydrochloride salt | 15.2 mmol, 7.65 g | Cl.ClC=1C(=NC=CC1)N(C(=O)C1=CC=C(C=C1)C=1C=NN(C1C(=O)OCC)C)[C@H]1CNCCC1
reactant | NaOH | 50 mmol, 1 mol/L, 50 mL | [OH-].[Na+]
reactant | water | 23 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 6.49 g, 97% | ClC=1C(=NC=CC1)N(C(=O)C1=CC=C(C=C1)C=1C=NN(C1C(=O)O)C)[C@H]1CNCCC1 | C22H22ClN5O3
